US07683160B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-hydroxymethyl-cyclopent-1-yloxy)-benzyl]-benzene
To a solution of 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene (0.15 g) in dry tetrahydrofuran (3 mL) chilled in an ice-bath is added lithium borohydride (8 mg). The reaction mixture is stirred at ambient temperature for 16 h. Aqueous NaHCO3 solution is added and the resulting mixture is extracted with ethyl acetate. The combined organic layers are dried (Na2SO4), the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→4:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene | 0.15 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)C(=O)OC | C26H31ClO9
reactant | lithium borohydride | 8 mg | [BH4-].[Li+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-hydroxymethyl-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)CO | C25H31ClO8
